US06414148B1
A mixture of 4-(4-chloro-2-fluoroanilino)-7-(2,2-dimethoxyethoxy)-6-methoxyquinazoline (210 mg, 0.52 mmol), water (5 ml) and TFA (5 ml) was stirred at ambient temperature for 3 hours then heated at 60° C. for 1 hour. The solution was allowed to cool, then diluted with water and the resulting precipitate was collected by filtration and dried. The solid was dissolved in methanol (10 ml) and cyclopentylamine (0.057 ml, 0.57 mmol) and dried 3 Å molecular sieves (2.5g) were added. The mixture was stirred for 30 minutes, glacial acetic acid (0.20 ml, 3.2 mmol) and sodium cyanoborohydride (150 mg, 2.4 mmol) were added and the reaction stirred for 4 hours then left to stand for 18 homs. The insolubles were removed by filtration and the solvent was removed from the filtrate by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol/aqueous ammonia (1008/1). The purified product was triturated with ether/hexane, collected by filtration and dried to give 4-(4-chloro-2-fluoroanilino)-7-(2-cyclopentylaminoethoxy)-6-methoxyquinazoline (80 mg, 36%).

reactant | 4-(4-chloro-2-fluoroanilino)-7-(2,2-dimethoxyethoxy)-6-methoxyquinazoline | 0.52 mmol, 210 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC(OC)OC)C=C1)F | C19H19ClFN3O4
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | cyclopentylamine | 0.57 mmol, 0.057 ml | C1(CCCC1)N | C5H11N
reactant | acetic acid | 3.2 mmol, 0.20 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 2.4 mmol, 150 mg | C(#N)[BH3-].[Na+]
solvent | water | O | H2O
solvent | water | 5 ml | O | H2O
product | 4-(4-chloro-2-fluoroanilino)-7-(2-cyclopentylaminoethoxy)-6-methoxyquinazoline | 80 mg, 36% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCNC2CCCC2)C=C1)F | C22H24ClFN4O2
